US05128344
(E)-2-Butenal N,N-dimethylhydrazone, (3.70 g, 0.033 mol) in dry xylene (10 mL, Fisher) was added to a xylene solution (50 mL) of 2-bromo-1,4-naphthoquinone, (6.00 g, 0.025 mol) in a 200-mL, round-bottomed flask fitted with a condensor. The dark mixture was then heated at reflux for 6 h under a nitrogen atmosphere before decanting the solution into a 500-mL separatory funnel. The solids coating the wall of the flask were washed thoroughly with ethyl acetate (6×25 mL) and these washings added to the separatory funnel. The combined organic solutions were extracted with 2N sulfuric acid solution (1×100 mL followed by 2×75 mL). The acid layers were then combined, chilled in ice, and made basic (~pH 10 test paper) with sodium hydroxide before extracting with ethyl acetate (4×100 mL). The latter organic layers were dried over potassium carbonate and concentrated to dryness on a rotary evaporator. This material was applied to a 4×70 cm column of Silica gel (Merck 230-400 mesh) and the product eluted with ethyl acetate. Concentration of the appropriate column fractions yielded pure cleistopholine (3.20 g, 57%); mp 202°-204° C. (lit. mp 198°-201° C.). IR(KBr) 1680, 1660, 1590, 1300, 980, 720 cm-1 ; 1H NMR (CDCl3) δ 8.86 (d, J=4.9 Hz, 1 H), 8.34-8.30 (m, 1 H), 8.24-8.19 (m, 1 H), 7.82-7.76 (m, 2 H), 7.47 (dd,J=4.9, 0.7 Hz, 1 H), 2.88 (br s, 3 H); 13C NMR (CDCl3) 184.7 (0), 181.9 (0), 153.4 (1), 151.5 (0), 150.0 (0), 134.5 (1), 134.1 (1), 133.8 (0), 132.5 (0), 131.2 (1), 129.1 (0), 127.3 (1), 127.1 (1), 2.28 (3) ppm.

reactant | (E)-2-Butenal N,N-dimethylhydrazone | 0.033 mol, 3.70 g | CN(N=C\C=C\C)C | C6H12N2
reactant | 2-bromo-1,4-naphthoquinone | 0.025 mol, 6.00 g | BrC=1C(C2=CC=CC=C2C(C1)=O)=O | C10H5BrO2
solvent | xylene | 10 mL | C=1(C(=CC=CC1)C)C | C8H10
solvent | xylene | 50 mL | C=1(C(=CC=CC1)C)C | C8H10
product | cleistopholine | 3.20 g, 57% | CC=1C=CN=C2C1C(=O)C=3C=CC=CC3C2=O | C14H9NO2
